US08703810B2
Step 2: 4-(Chloromethyl)-2-methoxy-1-methylbenzene
To a solution of (3-methoxy-4-methylphenyl)methanol (2.0 g, 13.0 mmol) in dry DCM (20 mL) at 0° C., SOCl2 (3.1 g, 26.0 mmol) was added slowly. The resulting solution was stirred at room temperature for 0.5 h. The mixture was evaporated, and the residue was dissolved in DCM (20 mL). The mixture was washed with saturated NaHCO3 (3×10 mL), dried over Na2SO4 and evaporated to give the title compound as brown oil (2.1 g).

reactant | (3-methoxy-4-methylphenyl)methanol | 13.0 mmol, 2.0 g | COC=1C=C(C=CC1C)CO | C9H12O2
reactant | SOCl2 | 26.0 mmol, 3.1 g | O=S(Cl)Cl | Cl2OS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(Chloromethyl)-2-methoxy-1-methylbenzene | 2.1 g | ClCC1=CC(=C(C=C1)C)OC | C9H11ClO
